US06691715B2
Diacetone Acrylamide
The instant polymers may be prepared by conventional solution polymerization techniques, as indicated below and in the Examples. Thus, to prepare the instant polymers the appropriate weights for the desired mol %'s of DMDAAC/APTAC/MAPTAC, acrylic acid or other anionic monomers and MBA or other branching agent are charged to a glass reactor equipped with a stirring means. The desired amount of alkyl acrylate, methacrylate or acrylamide is then added to the reactor with vigorous stirring to give the desired total monomer concentration, which is generally about 10-25% by weight. The monomer mixture may then be adjusted to a pH of about 3.0 to about 6.5 with dilute NaOH, heated to about 55° C., and purged with nitrogen for at least thirty minutes. Polymerization is then initiated by adding about 5×10−2 mol % of sodium persulfate and about 2.4×10−3 mol % of sodium bisulfate. After the peak exotherm is reached, additional dilution water and sodium bisulfite are added to scavenge any residual monomer and to dilute the final product to 4-8% polymer solids.

reactant | MAPTAC | CC(=C)C(=O)NCCC[N+](C)(C)C.[Cl-]
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | methacrylate | C(C(=C)C)(=O)[O-]
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | sodium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | Diacetone Acrylamide | C(C=C)(=O)N.CC(=O)C.CC(=O)C | InChI=1S/C3H5NO.2C3H6O/c1-2-3(4)5;2*1-3(2)4/h2H,1H2,(H2,4,5);2*1-2H3
